US07572809B2
Similar procedure as described in example 329 was used, starting from 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol and N-(2-chloroethyl)-morpholine to give [1-Isopropoxy-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 442(MH+).

reactant | 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OC)O)NC1=NNC(=C1)C | C17H20N4O3
reactant | N-(2-chloroethyl)-morpholine | ClCCN1CCOCC1 | C6H12ClNO
product | [1-Isopropoxy-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OC)OCCN1CCOCC1)NC1=NNC(=C1)C | C23H31N5O4
